US08685969B2
15. 2-((3-(1-Carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylamino)methyl)-5-methylbenzoic acid
To a light orange, homogeneous solution of 4-(3-amino-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (0.0767 g, 0.194 mmol), 2-formyl-5-methylbenzoic acid (0.096 g, 0.583 mmol) and acetic acid (0.033 mL, 0.583 mmol) in dichloromethane (3.89 mL) and THF (2.59 mL) under nitrogen was added sodium triacetoxyborohydride (0.206 g, 0.972 mmol). The reaction was stirred overnight. More sodium triacetoxyborohydride (0.206 g, 0.972 mmol) and acetic acid (0.033 mL, 0.583 mmol) were added. After 4.5 hr, water (3 mL) was added, and the reaction was stirred for 10 min. EtOAc (50 mL) and water (20 mL) were added, and the layers were separated. The organic layer was washed with water (6×20 mL) and brine (20 mL), dried over MgSO4, and concentrated in vacuo to give a crude product used in subsequent step.

reactant | 4-(3-amino-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.194 mmol, 0.0767 g | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)F | C21H19FN4O3
reactant | 2-formyl-5-methylbenzoic acid | 0.583 mmol, 0.096 g | C(=O)C1=C(C(=O)O)C=C(C=C1)C | C9H8O3
reactant | acetic acid | 0.583 mmol, 0.033 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.972 mmol, 0.206 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.972 mmol, 0.206 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.583 mmol, 0.033 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 3.89 mL | ClCCl | CH2Cl2
solvent | THF | 2.59 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 3 mL | O | H2O
product | 2-((3-(1-Carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylamino)methyl)-5-methylbenzoic acid | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)C)F | C30H27FN4O5
